*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 4.2
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_0 1 2 3 4 REF
C_C1 1 REF 1.0498720068449pf
C_C2 1 2 16.417753654609pf
C_C3 1 4 0.3885876784709pf
C_C4 2 REF 1.2554652444515pf
C_C5 2 3 0.1248727784485pf
C_C6 3 REF 0.6501413404762pf
C_C7 3 4 6.1743973724896pf
C_C8 4 REF 0.3461732307606pf
L_L1 3 5 1.301385869251nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_1 1 2 3 4 REF
C_C1 1 REF 0.7961547474141pf
C_C2 1 2 16.85412758951pf
C_C3 1 4 0.3583616289302pf
C_C4 2 REF 1.0072030628852pf
C_C5 2 3 0.1306265264323pf
C_C6 3 REF 0.6123310218657pf
C_C7 3 4 4.557951752079pf
C_C8 4 REF 0.3841632316114pf
L_L1 3 5 1.3026874547831nh
R_RL1 5 4 2.6105800771e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_2 1 2 3 4 REF
C_C1 1 REF 0.6110190814322pf
C_C2 1 2 17.289544315094pf
C_C3 1 4 0.3344247286818pf
C_C4 2 REF 0.8288035243146pf
C_C5 2 3 0.1344829043861pf
C_C6 3 REF 0.582147593299pf
C_C7 3 4 3.4300865490913pf
C_C8 4 REF 0.4146230049575pf
L_L1 3 5 1.30377384768nh
R_RL1 5 4 1.5232268652e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_3 1 2 3 4 REF
C_C1 1 REF 0.4549224258528pf
C_C2 1 2 17.851167841107pf
C_C3 1 4 0.3118682418984pf
C_C4 2 REF 0.6824408741596pf
C_C5 2 3 0.1373410887531pf
C_C6 3 REF 0.5529985368882pf
C_C7 3 4 2.4606012426334pf
C_C8 4 REF 0.4442561150886pf
L_L1 3 5 1.3048727060115nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_4 1 2 3 4 REF
C_C1 1 REF 0.341736035334pf
C_C2 1 2 18.559531607214pf
C_C3 1 4 0.2932777287949pf
C_C4 2 REF 0.5820402676408pf
C_C5 2 3 0.1388814745137pf
C_C6 3 REF 0.5275195121945pf
C_C7 3 4 1.6847470282586pf
C_C8 4 REF 0.4704678075897pf
L_L1 3 5 1.3059760274382nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_5 1 2 3 4 REF
C_C1 1 REF 0.2810590621325pf
C_C2 1 2 19.329176714877pf
C_C3 1 4 0.2821034408566pf
C_C4 2 REF 0.5351853616389pf
C_C5 2 3 0.1390496603016pf
C_C6 3 REF 0.5099056500086pf
C_C7 3 4 1.1723511562549pf
C_C8 4 REF 0.4889378218006pf
L_L1 3 5 1.306875646068nh
R_RL1 5 4 -1.88854973e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_6 1 2 3 4 REF
C_C1 1 REF 0.2511798592974pf
C_C2 1 2 20.173293813253pf
C_C3 1 4 0.2767530237927pf
C_C4 2 REF 0.5201085631563pf
C_C5 2 3 0.1383887092755pf
C_C6 3 REF 0.4980836198549pf
C_C7 3 4 0.8221543057004pf
C_C8 4 REF 0.5016784055019pf
L_L1 3 5 1.3076159012805nh
R_RL1 5 4 -2.76328152e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_7 1 2 3 4 REF
C_C1 1 REF 0.2375161416679pf
C_C2 1 2 21.272354719108pf
C_C3 1 3 0.0119229367378pf
C_C4 1 4 0.2764025836579pf
C_C5 2 REF 0.525181825241pf
C_C6 2 3 0.1370613958928pf
C_C7 3 REF 0.4896361586333pf
C_C8 3 4 0.5434878859282pf
C_C9 4 REF 0.5111990301613pf
L_L1 3 5 1.3082914810219nh
R_RL1 5 4 -3.519500592e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_8 1 2 3 4 REF
C_C1 1 REF 0.234101102484pf
C_C2 1 2 22.675822732308pf
C_C3 1 3 0.0187060512644pf
C_C4 1 4 0.2817957017595pf
C_C5 2 REF 0.5450819966495pf
C_C6 2 3 0.1353774050906pf
C_C7 3 REF 0.4846845315698pf
C_C8 3 4 0.329634284368pf
C_C9 4 REF 0.5172699582465pf
L_L1 3 5 1.3089247019887nh
R_RL1 5 4 -4.140704755e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_9 1 2 3 4 REF
C_C1 1 REF 0.2347734160716pf
C_C2 1 2 24.491540891181pf
C_C3 1 3 0.0219991516414pf
C_C4 1 4 0.2940372484308pf
C_C5 2 REF 0.5751712950061pf
C_C6 2 3 0.1338690496443pf
C_C7 3 REF 0.4830743833326pf
C_C8 3 4 0.1727268428751pf
C_C9 4 REF 0.5199013631444pf
L_L1 1 5 96.305427507001nh
R_RL1 5 2 10.002282806324
L_L2 3 6 1.3094817939758nh
R_RL2 6 4 -4.528215459e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_10 1 2 3 4 REF
C_C1 1 REF 0.2335351148985pf
C_C2 1 2 26.829924023735pf
C_C3 1 3 0.0216831096534pf
C_C4 1 4 0.313886152945pf
C_C5 2 REF 0.6108851044077pf
C_C6 2 3 0.1334099673768pf
C_C7 3 REF 0.4840401568914pf
C_C8 3 4 0.059753419174pf
C_C9 4 REF 0.519705189178pf
L_L1 1 5 60.853613307611nh
R_RL1 5 2 3.4370181812051
L_L2 3 6 1.3099750171266nh
R_RL2 6 4 -4.679338099e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_11 1 2 3 4 REF
C_C1 1 REF 0.2254415136897pf
C_C2 1 2 29.939264886064pf
C_C3 1 3 0.0170371082488pf
C_C4 1 4 0.3436786117599pf
C_C5 2 REF 0.6505218704898pf
C_C6 2 3 0.1354613462984pf
C_C7 3 REF 0.4868285042365pf
C_C8 4 REF 0.5173081340071pf
L_L1 1 5 38.226028453515nh
R_RL1 5 2 0.2985861272036
L_L2 3 6 1.3102662211864nh
R_RL2 6 4 -4.529494254e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_12 1 2 3 4 REF
C_C1 1 REF 0.206570318276pf
C_C2 1 2 34.167574449909pf
C_C3 1 4 0.3868980871886pf
C_C4 2 REF 0.6946249605288pf
C_C5 2 3 0.142078084324pf
C_C6 3 REF 0.4905502268882pf
C_C7 4 REF 0.5135690793468pf
L_L1 1 5 23.11063339115nh
R_RL1 5 2 -0.595510469901
L_L2 3 6 1.3101471628543nh
R_RL2 6 4 -2.34916879e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_13 1 2 3 4 REF
C_C1 1 REF 0.171219449435pf
C_C2 1 2 40.299109216821pf
C_C3 1 4 0.4519998964709pf
C_C4 2 REF 0.7480147996801pf
C_C5 2 3 0.1568974678012pf
C_C6 3 REF 0.4944960278085pf
C_C7 4 REF 0.5092448925348pf
R_R1 1 2 762.99641967313
L_L1 1 5 14.165754717208nh
R_RL1 5 2 -0.262110088497
L_L2 3 6 1.3098739894208nh
R_RL2 6 4 -3.056103378e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_14 1 2 3 4 REF
C_C1 1 REF 0.1103187069142pf
C_C2 1 2 49.719232068221pf
C_C3 1 4 0.5539789846158pf
C_C4 2 REF 0.8206709029653pf
C_C5 2 3 0.1855233080549pf
C_C6 3 REF 0.4980571258368pf
C_C7 4 REF 0.5051149494pf
R_R1 1 2 422.28957561605
L_L1 1 5 8.5762707481558nh
R_RL1 5 2 0.3447975329509
L_L2 3 6 1.3092890371808nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_15 1 2 3 4 REF
C_C1 1 2 65.908646046314pf
C_C2 1 4 0.7304411785232pf
C_C3 2 REF 0.9375631476305pf
C_C4 2 3 0.2406589339848pf
C_C5 3 REF 0.5007527234984pf
C_C6 4 REF 0.5019532321614pf
R_R1 1 2 260.09234274791
L_L1 1 5 4.7382290785688nh
R_RL1 5 2 -0.848665528618
L_L2 3 6 1.3082218686905nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_16 1 2 3 4 REF
C_C1 1 2 100.84017966517pf
C_C2 1 4 1.1104060336367pf
C_C3 2 REF 1.1834857034339pf
C_C4 2 3 0.364240340172pf
C_C5 3 REF 0.5021480248305pf
C_C6 4 REF 0.500859187767pf
R_R1 1 2 154.5806766137
L_L1 1 5 1.9589632920053nh
R_RL1 5 2 -0.160256643757
L_L2 1 6 87.967860784281nh
R_RL2 6 3 -0.16620191721
L_L3 1 7 87.157890030634nh
R_RL3 7 4 -0.167938525398
L_L4 2 8 88.030299564355nh
R_RL4 8 3 0.0057961674413
L_L5 2 9 87.223298055036nh
R_RL5 9 4 0.006271938222
L_L6 3 10 1.3059224421459nh
R_RL6 10 4 2.676941331e-5
Kn_K1 L_L1 L_L2 0.072235935254
Kn_K2 L_L1 L_L3 0.0724571898916
Kn_K3 L_L1 L_L4 -0.076965035137
Kn_K4 L_L1 L_L5 -0.077433836723
Kn_K5 L_L2 L_L3 0.992553560605
Kn_K6 L_L2 L_L4 0.988869472637
Kn_K7 L_L2 L_L5 0.9813557813335
Kn_K8 L_L2 L_L6 -0.098705883068
Kn_K9 L_L3 L_L4 0.9813926688056
Kn_K10 L_L3 L_L5 0.9887662701208
Kn_K11 L_L3 L_L6 0.0232432755528
Kn_K12 L_L4 L_L5 0.992558907492
Kn_K13 L_L4 L_L6 -0.098532406074
Kn_K14 L_L5 L_L6 0.02337366339
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_17 1 2 3 4 REF
C_C1 1 2 206.27068951894pf
C_C2 1 4 2.2502700019039pf
C_C3 2 REF 1.9220133701093pf
C_C4 2 3 0.7358763883517pf
C_C5 3 REF 0.5006709627463pf
C_C6 4 REF 0.5061900305164pf
R_R1 1 2 70.802108395926
L_L1 1 5 86.167026642347nh
R_RL1 5 REF -4.837881215423
L_L2 1 6 0.6501516541992nh
R_RL2 6 2 -0.048804892661
L_L3 1 7 32.419001921527nh
R_RL3 7 3 -0.038378552814
L_L4 1 8 31.692183044675nh
R_RL4 8 4 -0.039196050983
L_L5 2 9 85.609639508216nh
R_RL5 9 REF -4.888281892929
L_L6 2 10 32.512734214681nh
R_RL6 10 3 0.0011318333823
L_L7 2 11 31.789683996988nh
R_RL7 11 4 0.0014920161509
L_L8 3 12 1.2991220584833nh
R_RL8 12 4 3.8816424626e-5
Kn_K1 L_L1 L_L2 0.0806664983082
Kn_K2 L_L1 L_L5 0.9962203786499
Kn_K3 L_L2 L_L3 0.0605989475328
Kn_K4 L_L2 L_L4 0.0608747676403
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.080898619096
Kn_K7 L_L2 L_L7 -0.082227940827
Kn_K8 L_L3 L_L4 0.9797993870165
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9899881827209
Kn_K11 L_L3 L_L7 0.9696294680278
Kn_K12 L_L3 L_L8 -0.156088887581
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.9697777055785
Kn_K15 L_L4 L_L7 0.989759634113
Kn_K16 L_L4 L_L8 0.0445959180127
Kn_K17 L_L6 L_L7 0.9798586325627
Kn_K18 L_L6 L_L8 -0.155573789658
Kn_K19 L_L7 L_L8 0.0448206930105
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_18 1 2 3 4 REF
C_C1 1 2 1132.7138506095pf
C_C2 1 4 12.216123541286pf
C_C3 2 REF 8.4170022594567pf
C_C4 2 3 3.953289701983pf
C_C5 3 REF 0.4779643171206pf
C_C6 4 REF 0.5747726461061pf
R_R1 1 2 8.4542813910348
R_R2 1 4 644.14996723474
R_R3 2 4 -649.3775323539
L_L1 1 5 9.4030687123462nh
R_RL1 5 REF -0.067080990849
L_L2 1 6 0.0801940448568nh
R_RL2 6 2 -8.545371834e-3
L_L3 1 7 5.1499667098394nh
R_RL3 7 3 -4.904060699e-3
L_L4 1 8 4.498961763825nh
R_RL4 8 4 -5.813464495e-3
L_L5 2 9 9.3524117746386nh
R_RL5 9 REF -0.07705794454
L_L6 2 10 5.1688199480221nh
R_RL6 10 3 -4.202848439e-4
L_L7 2 11 4.5224562677776nh
R_RL7 11 4 -1.516695019e-4
L_L8 3 12 14.462162143362nh
R_RL8 12 REF -0.079284420887
L_L9 3 13 1.2412106363272nh
R_RL9 13 4 1.0e-5
L_L10 4 14 13.805632528646nh
R_RL10 14 REF -0.074787880497
Kn_K1 L_L1 L_L2 0.0753426910493
Kn_K2 L_L1 L_L5 0.9957278659413
Kn_K3 L_L1 L_L8 0.8024436550299
Kn_K4 L_L1 L_L10 0.821059792284
Kn_K5 L_L2 L_L3 0.0477250307483
Kn_K6 L_L2 L_L4 0.0471978630862
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.076921157291
Kn_K9 L_L2 L_L7 -0.086087987056
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8733529082173
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9922300016322
Kn_K15 L_L3 L_L7 0.8647261741614
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.374210236804
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8658797566003
Kn_K21 L_L4 L_L7 0.9911140662172
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1248804633118
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8016255125116
Kn_K26 L_L5 L_L10 0.8200175379666
Kn_K27 L_L6 L_L7 0.8738707314543
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.372610953439
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1255351412831
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2239584308456
Kn_K35 L_L8 L_L10 0.9563489689143
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_19 1 2 3 4 REF
C_C1 1 REF 14.356126692363pf
C_C2 1 3 6.9401604866312pf
C_C3 2 4 21.359993572031pf
C_C4 3 REF 0.5520151950002pf
C_C5 4 REF 0.3404959867376pf
R_R1 1 REF 949.86930099068
R_R2 1 2 -7.929459945865
R_R3 1 4 -567.9383983901
R_R4 2 REF -985.7950321488
R_R5 2 4 562.74816835803
L_L1 1 5 4.3655114170691nh
R_RL1 5 REF -0.011302678442
L_L2 1 6 0.4144533900266nh
R_RL2 6 2 0.3908956794295
L_L3 1 7 2.9281899891521nh
R_RL3 7 3 0.1826665058303
L_L4 1 8 2.384665412234nh
R_RL4 8 4 0.2476702954475
L_L5 2 9 4.7547350975189nh
R_RL5 9 REF 0.4226424915954
L_L6 2 10 2.7989546960377nh
R_RL6 10 3 0.0391577373789
L_L7 2 11 2.1801384410227nh
R_RL7 11 4 0.0162637649308
L_L8 3 12 7.2986305554223nh
R_RL8 12 REF 0.1978125293609
L_L9 3 13 1.1740747700466nh
R_RL9 13 4 0.0049604059344
L_L10 4 14 6.7650677746563nh
R_RL10 14 REF 0.2707287013863
Kn_K1 L_L1 L_L5 0.9554272417694
Kn_K2 L_L1 L_L8 0.7738236308558
Kn_K3 L_L1 L_L10 0.8046769401661
Kn_K4 L_L2 L_L3 0.2467645808224
Kn_K5 L_L2 L_L4 0.3113115974531
Kn_K6 L_L2 L_L5 1.0
Kn_K7 L_L2 L_L6 -0.132407107854
Kn_K8 L_L2 L_L7 -0.110422408848
Kn_K9 L_L2 L_L8 1.0
Kn_K10 L_L2 L_L9 0.0539673701456
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.7831213429473
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9278697689067
Kn_K15 L_L3 L_L7 0.7114401070333
Kn_K16 L_L3 L_L8 0.9448436015513
Kn_K17 L_L3 L_L9 -0.463174207524
Kn_K18 L_L3 L_L10 0.982515689513
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.6812027049171
Kn_K21 L_L4 L_L7 0.9101207427831
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1884204615564
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L6 0.0349582726289
Kn_K26 L_L5 L_L7 0.0263704312988
Kn_K27 L_L5 L_L8 0.7854796393328
Kn_K28 L_L5 L_L9 -0.018041433838
Kn_K29 L_L5 L_L10 0.8233832690671
Kn_K30 L_L6 L_L7 0.7701703426172
Kn_K31 L_L6 L_L8 1.0
Kn_K32 L_L6 L_L9 -0.494513423877
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1735302999875
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.2916736070334
Kn_K38 L_L8 L_L10 0.917177668495
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_20 1 2 3 4 REF
C_C1 1 2 361.53331985809pf
C_C2 1 4 3.9647129212298pf
C_C3 2 REF 3.003032164953pf
C_C4 2 3 1.3353609332985pf
C_C5 3 REF 0.4921877073331pf
C_C6 4 REF 0.5191997920703pf
R_R1 1 2 282.99749006145
L_L1 1 5 23.386492947863nh
R_RL1 5 REF -0.141873188781
L_L2 1 6 0.1189305532444nh
R_RL2 6 2 -1.303917297e-3
L_L3 1 7 10.332889539275nh
R_RL3 7 3 -6.594194825e-4
L_L4 1 8 9.6575968983029nh
R_RL4 8 4 -6.806999444e-4
L_L5 2 9 23.18008018523nh
R_RL5 9 REF -0.142418917622
L_L6 2 10 10.403742917004nh
R_RL6 10 3 2.0737124787e-4
L_L7 2 11 9.7361246421396nh
R_RL7 11 4 2.2142718115e-4
L_L8 3 12 33.514288134096nh
R_RL8 12 REF -0.149389493711
L_L9 3 13 1.2744783175563nh
R_RL9 13 4 1.7896278588e-5
L_L10 4 14 32.830560485723nh
R_RL10 14 REF -0.14191510717
Kn_K1 L_L1 L_L2 0.0975399713287
Kn_K2 L_L1 L_L5 0.9974558093841
Kn_K3 L_L1 L_L8 0.8316853083106
Kn_K4 L_L1 L_L10 0.8401487940558
Kn_K5 L_L2 L_L3 0.0216845960729
Kn_K6 L_L2 L_L4 0.0188495207373
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.085307637862
Kn_K9 L_L2 L_L7 -0.091749902088
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9367804069986
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.994270516199
Kn_K15 L_L3 L_L7 0.9305982556071
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.268643590122
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9315696868482
Kn_K21 L_L4 L_L7 0.9938757220266
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0853946503485
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8304062057959
Kn_K26 L_L5 L_L10 0.8387166683286
Kn_K27 L_L6 L_L7 0.9372337214971
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.266673461943
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0861388876924
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1498121885442
Kn_K35 L_L8 L_L10 0.9808421812026
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_21 1 2 3 4 REF
C_C1 1 2 75.274615761363pf
C_C2 1 4 0.8804853384616pf
C_C3 2 REF 1.001509362934pf
C_C4 2 3 0.3371782844811pf
C_C5 3 REF 0.4974501250157pf
C_C6 4 REF 0.4985885159948pf
R_R1 1 2 270.34862553077
L_L1 1 5 0.4374013845181nh
R_RL1 5 2 -0.011807031187
L_L2 1 6 43.97401329043nh
R_RL2 6 3 0.0029035828724
L_L3 1 7 43.211851015242nh
R_RL3 7 4 0.003631668437
L_L4 2 8 44.377548907591nh
R_RL4 8 3 4.43995956e-4
L_L5 2 9 43.624035483571nh
R_RL5 9 4 -1.889511159e-3
L_L6 3 10 1.2980169940508nh
R_RL6 10 4 2.0848761181e-5
Kn_K1 L_L1 L_L4 -0.095435891353
Kn_K2 L_L1 L_L5 -0.097246567422
Kn_K3 L_L2 L_L3 0.9851497134996
Kn_K4 L_L2 L_L4 0.9950596868881
Kn_K5 L_L2 L_L5 0.98009793554
Kn_K6 L_L2 L_L6 -0.136344233949
Kn_K7 L_L3 L_L4 0.980372459441
Kn_K8 L_L3 L_L5 0.994974105132
Kn_K9 L_L3 L_L6 0.0357746537979
Kn_K10 L_L4 L_L5 0.9852861919198
Kn_K11 L_L4 L_L6 -0.13515313379
Kn_K12 L_L5 L_L6 0.0361799221227
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_22 1 2 3 4 REF
C_C1 1 REF 0.2935800756595pf
C_C2 1 2 28.432826402666pf
C_C3 1 4 0.3595753362311pf
C_C4 2 REF 0.6835178338541pf
C_C5 2 3 0.1514435433671pf
C_C6 3 REF 0.4982794999439pf
C_C7 4 REF 0.4931454551766pf
R_R1 1 2 772.93436444882
L_L1 1 5 0.8403259710665nh
R_RL1 5 2 0.0222968352489
L_L2 3 6 1.3025313616772nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_23 1 2 3 4 REF
C_C1 1 REF 0.3971365719627pf
C_C2 1 2 14.312751434626pf
C_C3 1 3 0.0532169273904pf
C_C4 1 4 0.2042245152743pf
C_C5 2 REF 0.591632228684pf
C_C6 2 3 0.097282748611pf
C_C7 3 REF 0.4974630126518pf
C_C8 4 REF 0.4904409396798pf
L_L1 1 5 1.221909383279nh
R_RL1 5 2 0.0013931703874
L_L2 3 6 1.3007608875021nh
R_RL2 6 4 1.0751649995e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_24 1 2 3 4 REF
C_C1 1 REF 0.4428337405422pf
C_C2 1 2 8.9770234815708pf
C_C3 1 3 0.0787722902293pf
C_C4 1 4 0.1443776636233pf
C_C5 2 REF 0.5636953479465pf
C_C6 2 3 0.0755289564099pf
C_C7 2 4 0.0201382972822pf
C_C8 3 REF 0.4958905238338pf
C_C9 4 REF 0.4882085991463pf
L_L1 1 5 1.7092746462077nh
R_RL1 5 2 0.0218721404645
L_L2 3 6 1.2984729079519nh
R_RL2 6 4 1.2465369082e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_25 1 2 3 4 REF
C_C1 1 REF 0.4680795648366pf
C_C2 1 2 6.6895164227533pf
C_C3 1 3 0.0969891156957pf
C_C4 1 4 0.1154940682673pf
C_C5 2 REF 0.5578501748968pf
C_C6 2 3 0.0617698782435pf
C_C7 2 4 0.0538075907046pf
C_C8 3 REF 0.4941027501024pf
C_C9 4 REF 0.4858174949393pf
L_L1 1 5 1.8816657337728nh
R_RL1 5 2 -3.51529847e-3
L_L2 3 6 1.2955537271657nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_26 1 2 3 4 REF
C_C1 1 REF 0.4784476970816pf
C_C2 1 2 6.0386672996804pf
C_C3 1 3 0.1086536159315pf
C_C4 1 4 0.1039369932828pf
C_C5 2 REF 0.5593845970046pf
C_C6 2 3 0.0532433377123pf
C_C7 2 4 0.0689988399109pf
C_C8 3 REF 0.493021414547pf
C_C9 4 REF 0.4841721230675pf
L_L1 1 5 1.951718985545nh
R_RL1 5 2 -0.088826778527
L_L2 3 6 1.2943098874295nh
R_RL2 6 4 -1.228884733e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param30_26

